Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysuria and left flank pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ with diabetes and hypertension who presents
with dysuria and left flank/lower back pain x1 week.

Per ED note,
2 days ago began having fever. Presented to ED where diagnosed
with pyelonephritis, started on Cefpodoxime. Recurring fever of
the last 2 days. Called nurse, referred in to emergency
department for evaluation of pyelo and possible IV antibiotics.
Reports intermittent nausea and vomiting. Continuing fevers up 
to
102 Fahrenheit at home. Has been taking naproxen for pain.
Occasional mild dysuria, no hematuria. No history of kidney
stone. Denies chest pain or shortness of breath. No change in
bowel or bladder function. No new rashes, lesions, wound. No
changes in vision or hearing.

- In the ED, initial vitals were:  
Pain ___, T 98.6, HR 88, BP 127/85, RR 19, O2 100% RA

- Exam was notable for:  
Gen: Comfortable, No Acute Distress
HEENT: NC/AT. EOMI. 
Neck: No swelling. Trachea is midline.
Cor: RRR. No m/r/g. 
Pulm: CTAB, Nonlabored respirations. 
Back: Left CVA tenderness.
Abd: Soft, nontender, nondistended.
Ext: No edema, cyanosis, or clubbing. 
Skin: No rashes. No skin breakdown
Neuro: AAOx3. Gross sensorimotor intact. 
Psych: Normal mentation. 
Heme: No petechia. No ecchymosis.

- Labs were notable for:  
WBC 12.5, Cr 1.0, Lactate 1.5 

- Studies were notable for:  
Renal u/s showed Normal renal ultrasound. No hydronephrosis or
perinephric lesion.

- The patient was given:  
___ 19:34 PO/NG Cefpodoxime Proxetil 100 mg (LAST VISIT)
___ 16:50 IV CefTRIAXone  
___ 16:55 PO Acetaminophen 1000 mg 
___ 18:41 IVF  NS 1000 mL 

On arrival to the floor, patient confirms the above history. She
describes one week of intermittent mild dysuria, left flank/back
pain that made her worried for kidney infection. She had fever 
to
101-102 on the ___, came into the ED on the ___ and was
prescribed cefpodoxime and discharged home. She continued to 
have
fevers at home and felt unwell so presented again today and was
started on IV ceftriaxone. She reports multiple UTIs in the 
past,
but none this past year. She does not recall what antibiotics
she's been on in the past. 

Currently her dysuria has resolved and she has no back pain. She
denies further fever/chills since arrival. No chest pain,
dyspnea, abdominal pain, diarrhea. 

Per HPI, otherwise, 10-point review of systems was within normal
limits.  
 
Past Medical History:
HYPERTENSION                                                    
PITUITARY ADENOMA                                               
HYPERLIPIDEMIA                                                  
DIABETES MELLITUS    
LEFT KNEE SURGERY ___
LEFT GROIN HERNIA REPAIR
TONSILLECTOMY
 
Social History:
___
Family History:
Grandfather with hypertension and diabetes
Mother with bladder cancer and breast cancer in her ___
Grandmother with pancreatic cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
24 HR Data (last updated ___ @ ___)
    Temp: 98.7 (Tm 98.7), BP: 116/78, HR: 74, RR: 18, O2 sat:
96%, O2 delivery: Ra, Wt: 173.7 lb/78.79 kg   

Gen: appears well, comfortable
CV: RRR, normal s1/s2, no murmurs
Pulm: clear to auscultation 
GI: soft, nontender, nondistended, no CVA tenderness, no
suprapubic tenderness
Ext: warm, well perfused, no edema

DISCHARGE PHYSICAL EXAM:
===================
___ ___ Temp: 98.1 PO BP: 113/76 L Lying HR: 68 RR: 18 O2
sat: 95% O2 delivery: Ra FSBG: 141 
Gen: appears well, comfortable
CV: RRR, normal s1/s2, no murmurs
Pulm: clear to auscultation 
GI: soft, nontender, nondistended, no CVA tenderness on exam 
this
AM, no suprapubic tenderness
Ext: warm, well perfused, no edema
 
Pertinent Results:
ADMISSION LABS:
===========
___ 03:53PM BLOOD WBC-12.4* RBC-4.61 Hgb-13.0 Hct-39.2 
MCV-85 MCH-28.2 MCHC-33.2 RDW-12.0 RDWSD-36.7 Plt ___
___ 03:53PM BLOOD Neuts-78.7* Lymphs-14.3* Monos-6.2 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.79* AbsLymp-1.78 
AbsMono-0.77 AbsEos-0.01* AbsBaso-0.03
___ 03:53PM BLOOD Plt ___
___ 04:11PM BLOOD ___ PTT-28.7 ___
___ 03:53PM BLOOD Glucose-131* UreaN-16 Creat-1.0 Na-136 
K-3.6 Cl-93* HCO3-27 AnGap-16
___ 03:53PM BLOOD ALT-21 AST-14 AlkPhos-56 TotBili-0.7
___ 06:49AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.2
___ 05:00PM BLOOD Lactate-1.5

IMAGING:
=======
renal ultrasound: 
Normal renal ultrasound.  No hydronephrosis or perinephric 
lesion.

MICRO:
=====
urine culture -- pending
blood culture -- pending
urine culture final -- E Coli 

DISCHARGE LABS:
===========
___ 06:49AM BLOOD WBC-8.2 RBC-4.22 Hgb-12.3 Hct-36.3 MCV-86 
MCH-29.1 MCHC-33.9 RDW-12.1 RDWSD-38.2 Plt ___
___ 06:49AM BLOOD Glucose-153* UreaN-14 Creat-0.8 Na-141 
K-3.6 Cl-99 HCO3-26 AnGap-16
___ 06:49AM BLOOD ALT-22 AST-14 AlkPhos-54 TotBili-0.___RIEF HOSPITAL COURSE:
======================
Ms. ___ is a ___ yo F with history of diabetes and HTN who 
presented to the hospital with dysuria and left flank/lower back 
pain after recent presentation to the ED. Upon first 
presentation 2 days ago, she was diagnosed with pyelonephritis 
and started on cefpodoxime. She continued to have fevers at home 
and called her nurse who referred her to the ED for 
re-evaluation and IV antibiotics. She reported continued fevers 
at home with nausea and vomiting. In the hospital during this 
admission, she was given IV ceftriaxone and had a normal renal 
ultrasound with no evidence of abscess or hydronephrosis. Urine 
culture with pansensitive E. coli. She improved greatly and was 
tolerate PO without any issues upon discharge. 

TRANSITIONAL ISSUES:
=====================
[] follow up regarding UTI recurrence, patient has history of 
recurrent UTIs 

ACTIVE ISSUES:
==============
# Acute Pyelonephritis:
Patient presented to the ED 2 days ago with dysuria, left flank 
pain, fevers, and chills and was diagnosed with pyelonephritis 
and prescribed a 7 day course of oral cefpodoxime. Her symptoms 
persisted at home with fevers, nausea, and vomiting and was 
referred back to the ED by her primary care office. Upon arrival 
1 day ago, she was given IV ceftriaxone x2, fluids, and had a 
normal renal ultrasound. Urine culture grew pansensitive E. 
coli. She responded very well and no longer has dysuria or back 
pain. She is tolerating PO. She is agreeable for plan to go home 
with oral antibiotics. 

CHRONIC ISSUES:
================
# Hypertension
- continue home amlodipine 5mg PO daily
- continue home indapamide 1.25mg PO daily
- continue home lisinopril 40mg PO daily

# Diabetes
Non insulin dependent, last A1c 6.1%
- continue home metformin 1000mg PO BID

# Pituitary adenoma
- continue home bromocriptine 2.5mg PO daily 

# Hyperlipidemia
- continue home atorvastatin 10mg PO daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Bromocriptine Mesylate 2.5 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Indapamide 1.25 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
Please take one pill two times a day for 5 days.  
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*10 Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Bromocriptine Mesylate 2.5 mg PO DAILY  
5.  Indapamide 1.25 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Acute complicated urinary tract infection

SECONDARY DIAGNOSIS:
======================
Hypertension
Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a urinary tract infection and fevers.  
 
What was done for me while I was in the hospital?  
- You were given antibiotics
- You were monitored closely 

What should I do when I leave the hospital?  
Please take ciprofloxacin 500 mg twice a day starting tomorrow 
for 5 days. Please go to all of your doctors ___. 
Please call your doctor for any concerning symptoms (see below).

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___